US07183300B2
Step 1. 4-((allyl(methyl)amino)methyl)thiazol-2-amine
N-allyl-N-methylamine (7.0 mg, 0.1 mmol), 2-amino-4-chloromethylthiazole hydrochloride (18.5 mg, 0.1 mmol), and potassium carbonate (30 mg, 0.21 mmol) are shaken in ethanol (1 mL) at room temperature for 18 hours. The mixture is filtered and the filtrate was condensed under vacuum.

reactant | N-allyl-N-methylamine | 0.1 mmol, 7.0 mg | C(C=C)NC | C4H9N
reactant | 2-amino-4-chloromethylthiazole hydrochloride | 0.1 mmol, 18.5 mg | Cl.NC=1SC=C(N1)CCl
reactant | potassium carbonate | 0.21 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-((allyl(methyl)amino)methyl)thiazol-2-amine | C(C=C)N(C)CC=1N=C(SC1)N | C8H13N3S
